US09284311B2
1.1.3. Synthesis of 5-[4-(1,1-Dioxothiomorpholin-4-ylmethyl)-phenyl]-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine (Formula I)
4-[4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzyl]-thiomorpholine-1,1-dioxide (1.1 eq.) was added to a solution of 5-bromo-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine (4:1). K2CO3 (2 eq.) and PdCl2dppf (0.03 eq.) were added to the solution. The resulting mixture was then heated in an oil bath at 90° C. for 16 h under N2. Water was added and the solution was extracted with ethyl acetate. The organic layers were dried over anhydrous MgSO4 and evaporated in vacuo. The final compound was obtained after purification by flash chromatography.

reactant | 4-[4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzyl]-thiomorpholine-1,1-dioxide | 1.1 eq. | CC1(OB(OC1(C)C)C1=CC=C(CN2CCS(CC2)(=O)=O)C=C1)C | C17H26BNO4S
reactant | 5-bromo-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | BrC1=CC=CC=2N1N=C(N2)N | C6H5BrN4
reactant | K2CO3 | 2 eq. | C(=O)([O-])[O-].[K+].[K+]
solvent | Water | O | H2O
product | 5-[4-(1,1-Dioxothiomorpholin-4-ylmethyl)-phenyl]-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | O=S1(CCN(CC1)CC1=CC=C(C=C1)C1=CC=CC=2N1N=C(N2)N)=O | C17H19N5O2S
